US04457943
N-(2,4-Difluoro-3,5-dichlorophenyl)-N'-(2-chlorobenzoyl)-urea
A mixture of 9.0 gm (0.040 mol) of 2,4-difluoro-3,5-dichlorophenyl isocyanate, 6.5 gm (0.042 mol) of 2-chlorobenzamide, and 100 ml of xylene was boiled for five hours under reflux. It was then allowed to cool, and the product which precipitated was removed by suction filtration and dried.

reactant | 2,4-difluoro-3,5-dichlorophenyl isocyanate | 0.040 mol, 9.0 gm | FC1=C(C=C(C(=C1Cl)F)Cl)N=C=O | C7HCl2F2NO
reactant | 2-chlorobenzamide | 0.042 mol, 6.5 gm | ClC1=C(C(=O)N)C=CC=C1 | C7H6ClNO
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(2,4-Difluoro-3,5-dichlorophenyl)-N'-(2-chlorobenzoyl)-urea | FC1=C(C=C(C(=C1Cl)F)Cl)NC(=O)NC(C1=C(C=CC=C1)Cl)=O | C14H7Cl3F2N2O2
